US08865712B2
a) 2-(2-Bromo-5-fluoro-pyridin-4-yl)-propan-2-ol
To a solution of 2-bromo-5-fluoro-pyridine (CAS 41404-58-4, 25.0 g, 139 mmol) in THF (300 ml) was added dropwise LDA (100 ml of a 2M soln. in THF/heptane/ethylbenzene, 200 mmol) at −78° C. under a N2 atmosphere. Stirring was continued for 1 h at −78° C., then acetone (20.44 ml, 16.17 g, 278 mmol) was added dropwise and stirring was continued at −78° C. for another 1 h. The reaction mixture was quenched with aq. 1M NH4Cl soln. and diluted with EtOAc. The phases were separated and the aq. phase was twice reextracted with EtOAc. The combined org. phases were washed with brine, dried over Na2SO4, filtered, concentrated. Flash chromatography on silica gel (gradient cyclohexane:EtOAc 100:0 to 90:10) followed by crystallization from pentane yielded the title compound as a colourless solid. HPLC RtH4=0.81 min; ESIMS: 234, 236 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.32 (br s, 1H), 7.71 (d, 1H), 5.57 (s, 1H), 4.90 (t, 1H), 3.65-3.57 (m, 1H), 3.53-3.44 (m, 1H), 1.39 (s, 3H).

reactant | 2-bromo-5-fluoro-pyridine | 139 mmol, 25.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | acetone | 278 mmol, 20.44 ml, 16.17 g | CC(=O)C | C3H6O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
product | 2-(2-Bromo-5-fluoro-pyridin-4-yl)-propan-2-ol | BrC1=NC=C(C(=C1)C(C)(C)O)F | C8H9BrFNO
